US07183306B2
1-[4-(Benzyloxy)phenyl]hydrazine hydrochloride
To the suspension of 4-benzyloxyaniline (10 g) in concentrated hydrogen chloride (100 ml) was added dropwise a solution of sodium nitrite (3.2 g) in water (10 ml) over 10min at between −15 and −10° C., and then the mixture was stirred at 3° C. for 1 hr. To the mixture was added dropwise a solution of tin chloride (33.5 g) in concentrated hydrogen chloride (80 ml) at between −20 and −10° C. over 30 min, and then the mixture stirred at 0° C. for 1 hr.

reactant | 4-benzyloxyaniline | 10 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | sodium nitrite | 3.2 g | N(=O)[O-].[Na+]
reactant | tin chloride | 33.5 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | hydrogen chloride | 100 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | hydrogen chloride | 80 ml | Cl | ClH
product | 1-[4-(Benzyloxy)phenyl]hydrazine hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN | InChI=1S/C13H14N2O.ClH/c14-15-12-6-8-13(9-7-12)16-10-11-4-2-1-3-5-11;/h1-9,15H,10,14H2;1H
